US06063815
4-[2,6-Diiodo-4-(4-methoxy-benzoyl)-phenoxysulfonyl]-2-hydroxy-benzoic acid
The title compound was prepared according to the procedure in Example 4 using (4-hydroxy-3,5-diiodo-phenyl)-(4-methoxy-phenyl)-methanone (0.202 g, 0.421 mmol) and 4-chlorosulphonyl-2-hydroxybenzoic acid (0.398 g, 1.68 mmol) in THF (5 mL). Purification by preparative HPLC (C18, eluting with 70% CH3CN/H2O containing 0.1% TFA) gave 0.045 g (16%) of the title compound as a white solid, mp 214-215° C. 1H NMR (DMSO-d6) δ 3.86 (s, 3H), 7.11 (d, 2H), 7.44-7.48 (m, 2H), 7.73 (d, 2 H), 8.04-8.07 (m, 3H). IR (KBr) 3400, 3050, 1690, 1600, 1260 and 1175 cm-1. mass spectrum (-ESI) m/z 679 (M-H). Anal. Calcd. for C21H14I2O8S: C,37.08; H,2.07; N,0.00. Found: C,37.43; H,2.24; N,0.00.

reactant | (4-hydroxy-3,5-diiodo-phenyl)-(4-methoxy-phenyl)-methanone | 0.421 mmol, 0.202 g | OC1=C(C=C(C=C1I)C(=O)C1=CC=C(C=C1)OC)I | C14H10I2O3
reactant | 4-chlorosulphonyl-2-hydroxybenzoic acid | 1.68 mmol, 0.398 g | ClS(=O)(=O)C1=CC(=C(C(=O)O)C=C1)O | C7H5ClO5S
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-[2,6-Diiodo-4-(4-methoxy-benzoyl)-phenoxysulfonyl]-2-hydroxy-benzoic acid | 0.045 g, 16% | IC1=C(OS(=O)(=O)C2=CC(=C(C(=O)O)C=C2)O)C(=CC(=C1)C(C1=CC=C(C=C1)OC)=O)I | C21H14I2O8S
